US05559106
F. 3-(2-(Diethoxyphosphorylacetyl)hydrazino)-1-(2,4-dimethoxybenzyl)benzo[f]quinoxalin-2(1H)-one
A solution of (diethoxyphosphoryl)acetyl chloride (480 mg, 2.2 mmol) in dry tetrahydrofuran (10 ml) was added to a mixture of 1-(2,4-dimethoxybenzyl)-3-hydrazinobenzo[f]quinoxalin-2(1H)-one (750 mg, 2 mmol) and dry triethylamine (220 mg, 2.2 mmol) in dry tetrahydrofuran (40 ml). The mixture was stirred at room temperature for 1.5 h and filtered. The filtrate was evaporated to give 1.1 g of the title compound as a crude product.

reactant | (diethoxyphosphoryl)acetyl chloride | 2.2 mmol, 480 mg | C(C)OP(=O)(OCC)CC(=O)Cl | C6H12ClO4P
reactant | 1-(2,4-dimethoxybenzyl)-3-hydrazinobenzo[f]quinoxalin-2(1H)-one | 2 mmol, 750 mg | COC1=C(CN2C(C(=NC=3C=CC4=C(C23)C=CC=C4)NN)=O)C=CC(=C1)OC | C21H20N4O3
reactant | triethylamine | 2.2 mmol, 220 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-(2-(Diethoxyphosphorylacetyl)hydrazino)-1-(2,4-dimethoxybenzyl)benzo[f]quinoxalin-2(1H)-one | 1.1 g | C(C)OP(=O)(OCC)CC(=O)NNC1=NC=2C=CC3=C(C2N(C1=O)CC1=C(C=C(C=C1)OC)OC)C=CC=C3 | C27H31N4O7P
